US05514680
To 2-acetamido-5-bromobenzotrifluoride (665 mg, 2.436 mmol) in concentrated H2SO4 (4 mL) at 0° C. was added dropwise 70% HNO3 (0.4 mL, Baker). The mixture was stirred at 0° C. for 0.5 h, then at room temperature for 3 h and it was poured into ice water (15 g). The precipitate was collected by filtration, affording 700 mg (90%) of crude 2-acetamido-5-bromo-3-nitrobenzotrifluoride. It was crystallized from EtOH/H2O to offer 610 mg (78.8%) of pure compound as white needles. Mp: 193°-5° C., 1H NMR (CDCl3): δ2.250 (s, 3H), 7.346 (s, 1H), 8.039 (s, 1H); 8.247 (s, 1H).

reactant | 2-acetamido-5-bromobenzotrifluoride | 2.436 mmol, 665 mg | C(C)(=O)NC1=C(C=C(C=C1)Br)C(F)(F)F | C9H7BrF3NO
reactant | HNO3 | 0.4 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
product | 2-acetamido-5-bromo-3-nitrobenzotrifluoride | 700 mg, 90% | C(C)(=O)NC1=C(C=C(C=C1[N+](=O)[O-])Br)C(F)(F)F | C9H6BrF3N2O3
